US04983596
To a solution of allyl (4R,5S,6S)-3-[(2S,4S)-2-(allyloxycarbonylmethyloxymethyl)-1-(4-nitrobenzyloxycarbonyl)pyrrolidin-4-yl]thio-6-[(1R)-1-hydroxyethyl]-4-methyl-7-oxo-1azabicyclo[3.2.0]hept-2-ene-2-carboxylate (1.33 g), sodium 2-ethylhexanoate (0.75 g) and triphenylphosphine (0.21 g) in tetrahydrofuran (60 ml) was added tetrakis(triphenylphosphine)palladium(O) (0.25 g), at ambient temperature. The mixture was stirred at the same temperature for 1 hour. To the mixture was added 0.3M acetate buffer (pH 5.8) (60 ml). The mixture was stirred at ambient temperature for 6 hours in the presence of 20% palladium hydroxide on carbon (0.5 g) under atmospheric pressure of hydrogen. The catalyst was filtered off and the filtrate was concentrated under reduced pressure to remove the tetrahydrofuran. The resulting aqueous solution was washed with ethyl acetate (60 ml x 3)and evaporated to remove the organic solvent. The residual solution was subjected to a column chromatography on nonionic adsorption resin, "Diaion HP-20" [60 ml}and eluted with a mixture of acetone and water (2:98 V/V). The fractions containing the desired compound were collected and lyophilized to give (4R,5S,6S)-3-[(2S,4S)-2-(carboxymethyloxymethyl)pyrrolidin-4-yl]thio-6-[(1R)-1-hydroxyethyl]-4-methyl-7-oxo-1-azabicyclo[3.2.0]hept-2-ene-2-carboxylic acid (0.37 g).

reactant | allyl (4R,5S,6S)-3-[(2S,4S)-2-(allyloxycarbonylmethyloxymethyl)-1-(4-nitrobenzyloxycarbonyl)pyrrolidin-4-yl]thio-6-[(1R)-1-hydroxyethyl]-4-methyl-7-oxo-1azabicyclo[3.2.0]hept-2-ene-2-carboxylate | 1.33 g | C(C=C)OC(=O)COC[C@H]1N(C[C@H](C1)SC1=C(N2C([C@@H]([C@H]2[C@H]1C)[C@@H](C)O)=O)C(=O)OCC=C)C(=O)OCC1=CC=C(C=C1)[N+](=O)[O-] | C31H37N3O11S
reactant | sodium 2-ethylhexanoate | 0.75 g | C(C)C(C(=O)[O-])CCCC.[Na+]
reactant | triphenylphosphine | 0.21 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | acetate | 0.3M, 60 ml, pH 5.8 | C(C)(=O)[O-]
reactant | hydrogen | [H][H] | H2
solvent | tetrahydrofuran | 60 ml | O1CCCC1 | C4H8O
catalyst | tetrakis(triphenylphosphine)palladium(O) | 0.25 g | C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3.[Pd]
catalyst | palladium hydroxide on carbon | 0.5 g | [OH-].[OH-].[Pd+2]
product | (4R,5S,6S)-3-[(2S,4S)-2-(carboxymethyloxymethyl)pyrrolidin-4-yl]thio-6-[(1R)-1-hydroxyethyl]-4-methyl-7-oxo-1-azabicyclo[3.2.0]hept-2-ene-2-carboxylic acid | 0.37 g | C(=O)(O)COC[C@H]1NC[C@H](C1)SC1=C(N2C([C@@H]([C@H]2[C@H]1C)[C@@H](C)O)=O)C(=O)O | C17H24N2O7S
